US08497281B2
Step 1: 10b-methyl-3,5,6,10b-tetrahydro-benzo[f]quinoline
Propargylamine (0.21 mL) is added to a microwave oven suited vessel charged with a stir bar, 1-methyl-2-tetralone (0.50 mL), NaAuCl4*2H2O (27 mg), and ethanol (3 mL) (caution: a very exothermic reaction may evolve afterwards→keep an ice bath at hand). The resulting mixture is stirred under microwave irradiation at 100° C. for 10 min. After cooling the mixture to room temperature, the solvent is evaporated and the residue is chromatographed on silica gel (cyclohexane/ethyl acetate 25:75→0:100) to afford the title compound as an oil. Yield: 0.29 g (50% of theory); LC (method 1): tR=1.78 min; Mass spectrum (ESI+): m/z=198 [M+H]+.

reactant | Propargylamine | 0.21 mL | C(C#C)N | C3H5N
reactant | 1-methyl-2-tetralone | 0.50 mL | CC1C(CCC2=CC=CC=C12)=O | C11H12O
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | 10b-methyl-3,5,6,10b-tetrahydro-benzo[f]quinoline | CC12C=CCN=C2CCC2=C1C=CC=C2 | C14H15N
